US04891324
Preparation of N,N-dihexadecylaniline
Aniline (0.93 g), 1-iodohexadecane (10.56 g) and diisopropylethylamine (2.58 g) were combined in 10 ml of toluene. The mixture was heated at about 100° C. for a period of three days. The mixture was chromatographed on a silica gel column using 1% ethyl acetate in hexane. The heavy crystalline mass that precipitated from solution was cooled, diluted with ether and filtered. The filtrate was concentrated to an oil and applied to a silica gel column. The oil was washed with 500 ml of hexane followed by 1% ethyl acetate in hexane. The dialkylated fractions were combined and evaporated to give 2.6 grams of product.

reactant | Aniline | 0.93 g | NC1=CC=CC=C1 | C6H7N
reactant | 1-iodohexadecane | 10.56 g | ICCCCCCCCCCCCCCCC | C16H33I
reactant | diisopropylethylamine | 2.58 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | N,N-dihexadecylaniline | 2.6 grams | C(CCCCCCCCCCCCCCC)N(C1=CC=CC=C1)CCCCCCCCCCCCCCCC | C38H71N
